US20010053783A1
2-Chloroethyl-5,6-dihydro-1H,4H-1,2,5-thiadiazolo[4,3,2-ij]quinoline-2,2-dioxide
5,6-Dihydro-1H-4H-1,2,5-thiadiazolo-[4,3,2-ij]-quinoline-2,2-dioxide (1.92 g, 0.009 mol) was dissolved in dry DMF (80 mL) and sodium hydride (0.48 g, 0.010 mol) was added portionwise under nitrogen to the mixture at room temperature. Bromochloroethane (1.44 g, 0.010 mol) was added in one portion and the solution stirred overnight at ambient temperature. The reaction was quenched with water, extracted with ethyl acetate, the combined extracts washed with brine, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give a brown oil. The material was purified by chromatography on flash silica eluting with 20% ethyl acetate/hexane. The product was obtained as a clear oil which crystallised on standing.

reactant | 5,6-Dihydro-1H-4H-1,2,5-thiadiazolo-[4,3,2-ij]-quinoline-2,2-dioxide | 0.009 mol, 1.92 g | N1S(N2CCCC3=CC=CC1=C23)(=O)=O | C9H10N2O2S
reactant | sodium hydride | 0.010 mol, 0.48 g | [H-].[Na+]
reactant | Bromochloroethane | 0.010 mol, 1.44 g | BrC(C)Cl | C2H4BrCl
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-Chloroethyl-5,6-dihydro-1H,4H-1,2,5-thiadiazolo[4,3,2-ij]quinoline-2,2-dioxide | ClCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C11H13ClN2O2S
